US06858651B2
13.32 g (103 mmol) trans-4-Methylamino-cyclohexanol were dissolved in isopropanol and treated with 24.75 g (113.4 mmol) di-tert-butyl-dicarbonate in CH2Cl2. The reaction mixture was stirred at RT over night, concentrated to yield 23.3 g (98%) trans-(4-Hydroxy-cyclohexyl)-methyl-carbamic acid tert-butyl ester as white solid, MS: 229 (M+).

reactant | trans-4-Methylamino-cyclohexanol | 103 mmol, 13.32 g | CN[C@@H]1CC[C@H](CC1)O | C7H15NO
reactant | di-tert-butyl-dicarbonate | 113.4 mmol, 24.75 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | isopropanol | C(C)(C)O | C3H8O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | trans-(4-Hydroxy-cyclohexyl)-methyl-carbamic acid tert-butyl ester | 23.3 g, 98% | C(C)(C)(C)OC(N(C)[C@@H]1CC[C@H](CC1)O)=O | C12H23NO3
